US06107329
(S)-2-Amino-N,N-dimethyl-4-phenyl-butyramide hydrochloride
(S)-(1-Dimethylcarbamoyl-3-phenyl-propyl)-carbamic acid tert-butyl ester (235 mg, 0.8 mmol) was dissolved in 4 M HCl-dioxane (2 mL) at 0° C. The mixture was stirred at 25° C. for 1.5 hours, concentrated and the residue triturated with ether. Yield, 187 mg, 100%; HPLC (60/40) 2.31 minutes (99%).

reactant | (S)-(1-Dimethylcarbamoyl-3-phenyl-propyl)-carbamic acid tert-butyl ester | 0.8 mmol, 235 mg | C(C)(C)(C)OC(N[C@@H](CCC1=CC=CC=C1)C(N(C)C)=O)=O | C17H26N2O3
reactant | HCl dioxane | 4 M, 2 mL | Cl.O1CCOCC1
product | (S)-2-Amino-N,N-dimethyl-4-phenyl-butyramide hydrochloride | Cl.N[C@H](C(=O)N(C)C)CCC1=CC=CC=C1 | InChI=1S/C12H18N2O.ClH/c1-14(2)12(15)11(13)9-8-10-6-4-3-5-7-10;/h3-7,11H,8-9,13H2,1-2H3;1H/t11-;/m0./s1
